simulator lang=spectre
global 0

ahdl_include "./dut/saturation_recovery_limiter.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.16 1.4n 0.16 1.45n -0.02 3n -0.02 3.05n 0.72 4.7n 0.72 4.75n 1.02 6.5n 1.02 6.55n 0.52 8n 0.52 8.05n 0.04 10n 0.04 10.05n 0.86 13n 0.86]
Ven (en 0) vsource type=pwl wave=[0 0.9 5.6n 0.9 5.65n 0 7.2n 0 7.25n 0.9 13n 0.9]

XDUT (vin en out sat recovery_metric) saturation_recovery_limiter


tran tran stop=13n maxstep=10p
save vin en out sat recovery_metric time
